US04912108
A solution of 500 mg (2,35 mmol) 2,3-dihydroxy-pyrido(2,3-f)quinoxaline in 25 ml sulfuric acid (95-97%) was ice-cooled, and 238 mg (2,35 mmol) potassium nitrate was added. Stirring was continued at 0° C. for 1/2 h and then at 25° C. for 4 h. The reaction mixture was poured into 100 ml ice-water. The precipitate was filtered off and washed with water. The crude product was recrystallized (dimethyl formamide - water) to give 425 mg (70%) of pure 2,3-dihydroxy-6-nitropyrido-(2,3-f)quinoxaline, m.p. >300° C.1H NMR (DMSO-d6): 13,7 (2H,broad s), 9,0 (1H,d), 8,8 (1H,d), 7,86 (1H,s), 7,6 (1H, double d).

reactant | 2,3-dihydroxy-pyrido(2,3-f)quinoxaline | 2,35 mmol, 500 mg | OC=1C(=NC=2C=CC3=C(C2N1)N=CC=C3)O | C11H7N3O2
reactant | potassium nitrate | 2,35 mmol, 238 mg | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-dihydroxy-6-nitropyrido-(2,3-f)quinoxaline | 425 mg, 70% | OC=1C(=NC=2C=C(C3=C(C2N1)N=CC=C3)[N+](=O)[O-])O | C11H6N4O4
